US09334286B2
Preparation 117: 5-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole-3-thiol
3-Ethoxy-4-nitrobenzohydrazide (Preparation 118, 1287 mg 5.72 mmole) was stirred in THF (26 mL) and a solution of methyl isothiocyanate (422 mg 5.78 mmole) in THF (5 mL) was added. Triethylamine (102 uL, 0.71 mmole) was added and the reaction was stirred at 20° C. for 22 hours. The solvent was evaporated and replaced with 1M sodium hydroxide solution (85 mL) and the reaction was stirred at 45° C. for 2.5 hours. The reaction was filtered through Celite and the filtrate extracted with ether (2×45 mL). The aqueous was acidified using conc. hydrochloric acid and extracted with ethyl acetate (2×50 mL). The combined ethyl acetate extracts were washed with water and with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound (1.16 g, 72%).

reactant | 3-Ethoxy-4-nitrobenzohydrazide | 5.72 mmole, 1287 mg | C(C)OC=1C=C(C(=O)NN)C=CC1[N+](=O)[O-] | C9H11N3O4
reactant | methyl isothiocyanate | 5.78 mmole, 422 mg | CN=C=S | C2H3NS
reactant | Triethylamine | 0.71 mmole, 102 uL | C(C)N(CC)CC | C6H15N
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole-3-thiol | 1.16 g, 72% | C(C)OC=1C=C(C=CC1[N+](=O)[O-])C=1N(C(=NN1)S)C | C11H12N4O3S
